US07897597B2
5-(Ethoxymethyl)-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinolin-8-ol, 4.0 g, 11.75 mmol was dissolved in 100 mL of DMF and stirred with potassium carbonate (3.3 g, 23.5 mmol) for 30 minutes. To this mixture was added methyl 3-(bromomethyl)benzoate (2.8 g, 12.33 mmol) and the reaction was stirred overnight. The reaction was poured into 10 volumes of water and the precipitate was sequentially filtered, dissolved in dichloromethane, dried over magnesium sulfate, filtered, and concentrated to give 6.1 g of methyl 3-{[(5-ethoxymethyl-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinolin-8-yl)oxy]methyl}benzoate as a white solid.

reactant | 5-(Ethoxymethyl)-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinolin-8-ol | C(C)OCC=1N(C2=C(C=3N(C4=CC=C(C=C24)O)N=NN3)N1)CC(C)C | C17H20N6O2
reactant | potassium carbonate | 23.5 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-(bromomethyl)benzoate | 12.33 mmol, 2.8 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 3-{[(5-ethoxymethyl-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinolin-8-yl)oxy]methyl}benzoate | 6.1 g | C(C)OCC=1N(C2=C(C=3N(C4=CC=C(C=C24)OCC=2C=C(C(=O)OC)C=CC2)N=NN3)N1)CC(C)C | C26H28N6O4
